US04348399
In a manner according to Example 1, ethyl p-aminohydrocinnamate is alkylated with 1-bromohexadecane and potassium carbonate in hexamethylphosphoramide, providing ethyl 4-(hexadecylamino)hydrocinnamate.

reactant | ethyl p-aminohydrocinnamate | NC1=CC=C(CCC(=O)OCC)C=C1 | C11H15NO2
reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OCC)C=C1 | C27H47NO2
